US09428470B2
C) Methyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
Triethylamine (3.06 mL) was added to a mixture of 5-(benzyloxy)-N-hydroxy-2-methylbenzenecarboximidoyl chloride (6.05 g), dimethyl 2-methylenesuccinate (3.09 mL), and THF (100 mL) at room temperature, and the obtained mixture was stirred at 70 C for 2 hours. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (6.80 g).

reactant | Triethylamine | 3.06 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(benzyloxy)-N-hydroxy-2-methylbenzenecarboximidoyl chloride | 6.05 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(=NO)Cl)C | C15H14ClNO2
reactant | dimethyl 2-methylenesuccinate | 3.09 mL | C=C(C(=O)OC)CC(=O)OC | C7H10O4
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 6.80 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC)CC(=O)OC)C | C22H23NO6
